US05166148
2-Amino-1,4-dihydro-4-(2-{4-[4-(2-methoxyphenyl)-1-piperazinyl]-butylsulfinyl}phenyl)-6-methyl-5-nitro-3-pyridinecarboxylic acid methyl ester:
To a 4-neck 500 ml round-bottom flask fitted with an addition funnel, thermometer and mechanical stirrer under a nitrogen atmosphere, was added 5.00 g of 2-amino-1,4-dihydro-4-(2-{4-[4-(2-methoxyphenyl)-1-piperazinyl]-butylthio}phenyl)-6-methyl-5-nitro-3-pyridinecarboxylic acid methyl ester and 120 ml of dichloromethane, followed by 1.73 ml of trifluoromethanesulfonic acid. The reaction mixture was cooled to -10° C. with an ice/acetone bath, and 1.88 g of 80% m-chloroperbenzoic acid in 120 ml of dichloromethane was added dropwise, maintaining -5° to -10° C. The reaction was stirred for an additional 2 hr. at -10° C. after the addition was complete. The reaction mixture was poured into conc. sodium bicarbonate, and the reaction flask was rinsed with acetone. The organic layer was separated, dried over magnesium sulfate, filtered and concentrated to an orange oil. The product (Ex. No. 2, Table 1) was isolated after column chromatography on silica gel, eluting with 20% methanol in ethyl acetate as an orange foam, 2.8 g. 1H-NMR (CDCl3) ∂ 1.84-2.05(m,2H); 2.03-2.05(m,2H); 2.36(s,3H); 2.55(t,2H,J=7Hz); 2.71(br s,4H); 3.00-3.18(br s,6H); 3.61(s,3H); 3.85(s,3H); 5.76(s,1H); 6.70(br s,2H); 6.83-7.03(m,4H); 7.28-7.41(m,4H); 7.82-7.86(m,1H). Mass spectrum: 584 (M+1).

reactant | 2-amino-1,4-dihydro-4-(2-{4-[4-(2-methoxyphenyl)-1-piperazinyl]-butylthio}phenyl)-6-methyl-5-nitro-3-pyridinecarboxylic acid methyl ester | 5.00 g | COC(=O)C1=C(NC(=C(C1C1=C(C=CC=C1)SCCCCN1CCN(CC1)C1=C(C=CC=C1)OC)[N+](=O)[O-])C)N | C29H37N5O5S
reactant | trifluoromethanesulfonic acid | 1.73 ml | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | m-chloroperbenzoic acid | 1.88 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
product | 2-Amino-1,4-dihydro-4-(2-{4-[4-(2-methoxyphenyl)-1-piperazinyl]-butylsulfinyl}phenyl)-6-methyl-5-nitro-3-pyridinecarboxylic acid methyl ester | COC(=O)C1=C(NC(=C(C1C1=C(C=CC=C1)S(=O)CCCCN1CCN(CC1)C1=C(C=CC=C1)OC)[N+](=O)[O-])C)N | C29H37N5O6S
